US08030435B2
A 2 L 4-neck flask, equipped with thermocouple well, a dropping funnel, overhead stirrer and reflux condenser is charged with 199 grams (1.88 moles) of sodium hypophosphite monohydrate and 500 mL of 2B ethanol. Into the resultant stirred suspension is added via the dropping funnel, 52 mL (1.87 moles) of concentrated sulfuric acid. During the addition the reaction mixture temperature rises from 21° C. to 27° C. After approximately 15 minutes, 100 mL (0.624 moles) of 2,4,4-trimethyl-1-pentene is added, followed by 10.24 g (0.062 moles) of AIBN powder. The reaction mixture is heated at reflux under a nitrogen atmosphere for 20 hours. An additional 6.84 g (0.042 moles) of AIBN powder is added and the mixture is refluxed under nitrogen for another 20 hours. Solvent is removed under vacuum and the residue is partitioned between 400 mL heptane and 1 L of water. The heptane layer is concentrated under vacuum to give 98 grams (88% of theory) of 2,4,4-trimethylpentyl phosphinic acid as a colorless oil.

reactant | sodium hypophosphite monohydrate | 1.88 moles, 199 grams | O.[PH2](=O)[O-].[Na+]
reactant | sulfuric acid | 1.87 moles, 52 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,4,4-trimethyl-1-pentene | 0.624 moles, 100 mL | CC(=C)CC(C)(C)C | C8H16
reactant | AIBN | 0.062 moles, 10.24 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
catalyst | AIBN | 0.042 moles, 6.84 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | ethanol | C(C)O | C2H6O
product | 2,4,4-trimethylpentyl phosphinic acid | 98 grams, 88% | CC(CP(O)=O)CC(C)(C)C | C8H19O2P
